US05635510
53.1 Synthesis of 3-cyano-3-(thiophen-2-yl)-pentanedioic acid diethyl ester
Prepare by the method of example 1.1.2 using thiophen-2-yl-acetonitrile (0.161 mol) and ethyl bromoacetate (0.325 mol). Chromatograph on silica gel to give the title compound.

reactant | thiophen-2-yl-acetonitrile | 0.161 mol | S1C(=CC=C1)CC#N | C6H5NS
reactant | ethyl bromoacetate | 0.325 mol | BrCC(=O)OCC | C4H7BrO2
product | 3-cyano-3-(thiophen-2-yl)-pentanedioic acid diethyl ester | C(C)OC(CC(CC(=O)OCC)(C=1SC=CC1)C#N)=O | C14H17NO4S
